Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Vicodin
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
none

attach
 
Pertinent Results:
___ 06:35AM BLOOD WBC-12.1* RBC-3.89* Hgb-12.5* Hct-38.2* 
MCV-98 MCH-32.1* MCHC-32.7 RDW-12.7 RDWSD-45.2 Plt ___

Blood and Urine Cx NGTD

___ 05:55AM BLOOD CRP-7.9*
___ 06:35AM BLOOD CRP-8.1*
 
Brief Hospital Course:
___ y/o M with PMHx of asthma, GERD, and sciatica with recent 
lateral decompression of L5/S1 2 weeks ago at ___, who 
presented to OSH with intractable N/V, transferred here after CT 
scan showed fluid collection.

# Acute N/V, suspect gastroenteritis: Symptoms resolved rapidly 
with supportive care.  Pt was advanced a diet and did not have 
any diarrhea, fevers or recurrent vomiting.   GERD was treated 
with tums and PPI.   He was restarted on oral pain regimen with 
Percocet and was ambulating with brace in place without 
difficulty. 

# PARASPINAL FLUID COLLECTION after recent lumbar spine surgery: 
MRI read was concerning for infection though pt was followed by 
the spine team and he was denying any concerning symptoms for 
abscess or CSF leak.   He remained afebrile without any 
neurologic symptoms and CRP remained ___.  His pain was well 
controlled with Percocet and he was ambulating in hallway, felt 
ready for discharge.   Pt was provided anticipatory guidance 
with regards to warning symptoms of infection and has close 
follow up with Dr ___ on ___.   Pt was given a short course 
of Percocet (in place of oxycodone) as he seems to tolerate 
Percocet better.  

DISCHARGE EXAM:
Temp: 98.1 PO BP: 119/78 HR: 69 RR: 18 O2 sat: 95%
O2 delivery: Ra 
GEN: pleasant male in NAD
HEENT: MMM, no scleral icterus
CV: RRR no apprec m
RESP: CTAB no w/r
ABD: soft, NT, ND, NABs
GU: no foley
Low back: incision sites with minimal erythema, no drainage
EXTR: warm ,no edema
NEURO: ___ strength ___, sensation in tact

> 30min spent on clinical care on the day of discharge.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Albuterol Inhaler Dose is Unknown  IH Frequency is Unknown 
2. Omeprazole 20 mg PO DAILY 
3. Gabapentin 900 mg PO QHS 
4. Citalopram 20 mg PO DAILY 
5. OxyCODONE--Acetaminophen (5mg-325mg) 2 TAB PO Q4H:PRN Pain - 
Severe 
6. Diazepam 5 mg PO Q6H:PRN back pain 
7. Fluticasone-Salmeterol Diskus (100/50) Dose is Unknown  IH 
Frequency is Unknown 

 
Discharge Medications:
1.  Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB  
2.  Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID  
3.  OxyCODONE--Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN Pain 
- Moderate 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every 4hrs as needed Disp #*30 Tablet Refills:*0 
4.  Citalopram 20 mg PO DAILY  
5.  Gabapentin 900 mg PO QHS  
6.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Nausea, vomiting
Possible Gastroenteritis
Post op seroma after lateral decompression of L5/S1

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with nausea and vomiting that has resolved 
entirely with supportive care.  You underwent imaging of you 
back that showed a fluid collection at the surgical site that 
raised concern for infection.  You have been seen by the spine 
team and have been monitored clinically off antibiotics without 
any new concerning symptoms.  Please continue to monitor for HA 
upon standing, worsening back pain, drainage from incision sites 
or fevers - any of these should prompt urgent re-evaluation.  
You are scheduled to follow up next week with Dr. ___, 
please keep that appointment.

We recommend that you avoid driving while taking Percocet and 
take a daily stool softener.

Best wishes from your team at ___
 
Followup Instructions:
___